US05502028
Ethyl 2-fluoro-2-(4,6-dimethoxypyrimidin-2-yl)acetate
Butyllithium (21ml of a 1.6M solution in hexane) was added to di-isopropylamine (4.94ml) in dry tetrahydrofuran (100ml) under nitrogen at a temperature of -78° C., and the mixture was stirred for 30 minutes. A solution of ethyl fluoroacetate (2.51g) in dry tetrahydrofuran (20ml) was then added at a temperature of -60° C., and the mixture was stirred for 1 hour. Hexamethylphosphoric triamide (5.12ml) was added, and the mixture was stirred for a further 10 minutes. Then 4,6-dimethoxy-2methylsulfonylpyrimidine (5.0g) was added portionwise, and the temperature of the reaction mixture rose within 2.5 hours to room temperature. The reaction mixture was washed with saturated ammonium chloride and sodium chloride solution, the aqueous phase was extracted with ethyl acetate, and the combined organic layers were dried over magnesium sulfate and evaporated. The product obtained was chromatographed on silica gel using hexane/ethyl acetate (0-20% ethyl acetate), to give the desired compound as a yellow oil (0.56g), refractive index at 20° C. =1.4829.

reactant | Butyllithium | C(CCC)[Li]
reactant | di-isopropylamine | 4.94ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl fluoroacetate | 2.51g | FCC(=O)OCC | C4H7FO2
reactant | 4,6-dimethoxy-2methylsulfonylpyrimidine | 5.0g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20ml | O1CCCC1 | C4H8O
solvent | Hexamethylphosphoric triamide | 5.12ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | Ethyl 2-fluoro-2-(4,6-dimethoxypyrimidin-2-yl)acetate | 0.56g | FC(C(=O)OCC)C1=NC(=CC(=N1)OC)OC | C10H13FN2O4
